US07902181B2
b) (S)-4′-(2-Amino-2-cyanoethyl)-3-fluorobiphenyl-4-carbonitrile
(S)-tert-Butyl 1-cyano-2-(4′-cyano-3′-fluorobiphenyl-4-yl)ethylcarbamate (0.580 g) was stirred in formic acid (8 mL) and heated at 50° C. for 10 min. The cooled mixture was evaporated, dissolved in methanol and applied to a 10 g SCX column. The column was washed with methanol then eluted with 10% ammonia in methanol. The eluate was evaporated to give a solid (0.335 g).

reactant | (S)-tert-Butyl 1-cyano-2-(4′-cyano-3′-fluorobiphenyl-4-yl)ethylcarbamate | 0.580 g | C(#N)[C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)C#N)F)NC(OC(C)(C)C)=O | C21H20FN3O2
solvent | formic acid | 8 mL | C(=O)O | CH2O2
product | (S)-4′-(2-Amino-2-cyanoethyl)-3-fluorobiphenyl-4-carbonitrile | 0.335 g | N[C@@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)C#N)F)C#N | C16H12FN3
